US04376119
(2) Synthesis of N-(6-fluoro-2-pyridyl)-3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide
A mixture consisting of 7.68 g (0.0285 mole) of methyl 3,4-dihydro-2-methyl-4-oxo-2H-benzothiazine-3-carboxylate 1,1-dioxide, 4.8 g (0.0428 mole) of 2-amino-6-fluoropyridine, and 29 ml of xylene was refluxed for 17 hours, during which the methanol formed by this reaction was continuously distilled off. After the mixture was cooled by allowing it to stand overnight, the resulting precipitate was separated by filtration. The filtrate was concentrated and then cooled to obtain an additional precipitate, which was combined with the previously obtained precipitate and washed with hot chloroform. Thus, 7.2 g of crystals having a melting point of 246°-248° C. (decomp.) were obtained in a 72.3% yield.

reactant | methyl 3,4-dihydro-2-methyl-4-oxo-2H-benzothiazine-3-carboxylate 1,1-dioxide | 0.0285 mole, 7.68 g | CN1S(C2=C(C(C1C(=O)OC)=O)C=CC=C2)(=O)=O | C11H11NO5S
reactant | 2-amino-6-fluoropyridine | 0.0428 mole, 4.8 g | NC1=NC(=CC=C1)F | C5H5FN2
reactant | xylene | 29 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | CO | CH4O
product | N-(6-fluoro-2-pyridyl)-3,4-dihydro-2-methyl-4-oxo-2H-1,2-benzothiazine-3-carboxamide 1,1-dioxide | 72.3% yield | FC1=CC=CC(=N1)NC(=O)C1N(S(C2=C(C1=O)C=CC=C2)(=O)=O)C | C15H12FN3O4S
